US06949579B2
N-[6-chloro-1H-indazol-3-yl]benzenamide
0.69 cm3 of benzoyl chloride is added to 1 g of 6-chloro-1H-indazole-3-amine in 15 cm3 of pyridine, cooled to about 3° C. The reaction medium is allowed to return to about 19° C. over 12 hours and is then evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 25 cm3 of ethyl acetate and 25 cm3 of distilled water. The organic phase is washed with 25 cm3 of distilled water and 25 cm3 of saturated aqueous sodium chloride solution. The resulting solution is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a dichloromethane/methanol mixture (99/1 by volume) and collecting 15 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 990 mg of N-[6-chloro-1H-indazol-3-yl]benzenamide are obtained in the form of a white solid melting at 188° C.

reactant | benzoyl chloride | 0.69 cm3 | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | pyridine | 15 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[6-chloro-1H-indazol-3-yl]benzenamide | ClC1=CC=C2C(=NNC2=C1)NC(=O)C1=CC=CC=C1 | C14H10ClN3O
